US05006515
3-Phenyl-2-isoxazolin-5-yldimethylphosphine oxide (by procedure (a))
Preparation is carried out in analogy to Example 1 by starting from 60.6 g (0.5 mol) of benzaldoxime, 73.45 g (0.55 mol) of N-chlorosuccinimide, 57.3 g (0.55 mol) of vinyldimethylphosphine oxide and 76.5 ml (0.55 mol) of triethylamine. After the usual working up, the product is recrystallized from. tert.butyl methyl ether. 64.4 g of pure product of melting point 153° C. are obtained.

reactant | benzaldoxime | 0.5 mol, 60.6 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | N-chlorosuccinimide | 0.55 mol, 73.45 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | vinyldimethylphosphine oxide | 0.55 mol, 57.3 g | C(=C)P(C)(C)=O | C4H9OP
reactant | triethylamine | 0.55 mol, 76.5 ml | C(C)N(CC)CC | C6H15N
product | 3-Phenyl-2-isoxazolin-5-yldimethylphosphine oxide | 64.4 g | C1(=CC=CC=C1)C1=NOC(C1)P(C)(C)=O | C11H14NO2P
